US07776847B2
N1-(Isothiazolo[5,4-b]pyridin-3-yl)-N3-((4′-methoxybiphenyl-4-yl)methyl)propane-1,3-diamine (100 mg, 0.25 mmol) was dissolved in anhydrous methylene chloride with diisopropylethylamine (0.11 mL, 0.63 mmol). The mixture was cooled in an ice-bath under nitrogen and a solution of 1,2-dimethylimidazole-4-sulfonyl chloride (58.4 mg, 0.30 mmol) in methylene chloride (5 mL) was added dropwise. After the addition was completed the ice-bath was removed and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with methylene chloride and then washed successively with saturated sodium bicarbonate solution and brine. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by prep-scale reverse phase high performance liquid chromatography to yield N-(3-(isothiazolo[5,4-b]pyridin-3-ylamino)propyl)-N-((4′-methoxybiphenyl-4-yl)methyl)-1,2-dimethyl-1H-imidazole-4-sulfonamide (45 mg). 1H NMR (300 MHz, DMSO-d6): 8.64-8.66 (d, 1H), 8.45-8.50 (d, 1H), 7.52-7.75 (m, 8H), 7.28 (s, 1H), 6.95 (s, 1H), 6.82 (s, 1H), 3.99 (s, 2H), 3.89 (s, 3H), 3.55-3.65 (m, 5H), 2.88-2.90 (t, 2H), 2.50 (s, 3H), 1.99-2.10 ppm (t, 2H). MW=563 confirmed by LC-MS, tr=4.31 min (Method E) MH+=564.

reactant | N1-(Isothiazolo[5,4-b]pyridin-3-yl)-N3-((4′-methoxybiphenyl-4-yl)methyl)propane-1,3-diamine | 0.25 mmol, 100 mg | S1N=C(C=2C1=NC=CC2)NCCCNCC2=CC=C(C=C2)C2=CC=C(C=C2)OC | C23H24N4OS
reactant | diisopropylethylamine | 0.63 mmol, 0.11 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,2-dimethylimidazole-4-sulfonyl chloride | 0.30 mmol, 58.4 mg | CN1C(=NC(=C1)S(=O)(=O)Cl)C | C5H7ClN2O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(isothiazolo[5,4-b]pyridin-3-ylamino)propyl)-N-((4′-methoxybiphenyl-4-yl)methyl)-1,2-dimethyl-1H-imidazole-4-sulfonamide | 45 mg | S1N=C(C=2C1=NC=CC2)NCCCN(S(=O)(=O)C=2N=C(N(C2)C)C)CC2=CC=C(C=C2)C2=CC=C(C=C2)OC | C28H30N6O3S2
